US08067445B2
Step 2: 2-(3-Bromo-4-methoxy-phenyl)-2-methyl-propionic acid ethyl ester
2-(3-Bromo-4-methoxy-phenyl)-2-methyl-propionitrile (1.166 g, 4.48 mmol) was treated with potassium hydroxide (2.1 g, 35.8 mmol) in t-BuOH (10 mL), and the reaction was stirred at 85° C. overnight. Analytical LCMS indicated that no starting material remained, so the mixture was worked-up with EtOAc and 1N aqueous HCl, dried over MgSO4, filtered, and concentrated. The residue was dissolved in EtOH with heating, and then thionyl chloride (0.65 mL, 8.96 mmol) was added, and the reaction was stirred for 1 hour. Analytical LCMS indicated that no reaction has occurred, so additional thionyl chloride was added, and the reaction was stirred for another 4 hours. Sulfuric acid (5 drops) was added, and the reaction was stirred at reflux, but analytical LCMS indicated that no reaction had occurred. The mixture was neutralized with 1N aqueous NaOH and extracted with CH2Cl2, and the organic layers were combined and concentrated. The residue was dissolved in ethylene glycol (10 mL) and treated with potassium hydroxide (2.26 g, 40.2 mmol) and H2O (1 mL) to ensure complete hydrolysis to the acid. The reaction was stirred overnight at 150° C., and then cooled to room temperature and worked up with EtOAc and 1N aqueous HCl. The organic layer was dried over Na2SO4, decanted, and concentrated, and the residue was dissolved in EtOH (10 mL) and treated with thionyl chloride (0.65 mL, 8.96 mmol). Analytical LCMS indicated that no reaction had occurred after 20 minutes, so sulfuric acid was added, and the reaction was stirred at 80° C. for 4 days. The mixture was partitioned between CH2Cl2 and saturated aqueous NaHCO3, and the aqueous layer was extracted with CH2Cl2. The combined organic layers were dried over Na2SO4, decanted, and concentrated, and the residue was purified by silica gel chromatography (0-100% EtOAc in hexanes) to give the title compound.

reactant | 2-(3-Bromo-4-methoxy-phenyl)-2-methyl-propionitrile | 4.48 mmol, 1.166 g | BrC=1C=C(C=CC1OC)C(C#N)(C)C | C11H12BrNO
reactant | potassium hydroxide | 35.8 mmol, 2.1 g | [OH-].[K+]
reactant | HCl | 1N | Cl | ClH
reactant | thionyl chloride | 8.96 mmol, 0.65 mL | S(=O)(Cl)Cl | Cl2OS
reactant | NaOH | 1N | [OH-].[Na+]
reactant | potassium hydroxide | 40.2 mmol, 2.26 g | [OH-].[K+]
reactant | HCl | 1N | Cl | ClH
reactant | thionyl chloride | 8.96 mmol, 0.65 mL | S(=O)(Cl)Cl | Cl2OS
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | t-BuOH | 10 mL | CC(C)(C)O | C4H10O
catalyst | Sulfuric acid | 5 drops | S(O)(O)(=O)=O | H2O4S
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | 1 mL | O | H2O
product | 2-(3-Bromo-4-methoxy-phenyl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)C1=CC(=C(C=C1)OC)Br)=O | C13H17BrO3
